// "spectre" description for "ATSim", "L1_write_ctrl_rev3", "spectreText" 


simulator lang=spectre

subckt L1_write_ctrl_rev3 TagWE WriteToL1MissTagAck TagWDataSel L2DataOutTagAck TagWrRegReq WriteToL1MissReq TagWrRegAck L2DataOutReqTagWAck
 
I0  (p1 WriteToL1MissReq TagWrRegAck)   nand_1x   
I1  (p2 L2DataOutReq TagWrRegAck Y2_n1) nand3_1x  
I2  (Y2_n1 y2) inv_1x
I3  (p3 TagWAck_n1 L2DataOutReq) nand_1x   
I4  (TagWAck_n1  TagWAck) inv_1x    
I5  (p4 WriteToL1MissReq WriteToL1MissReq) nand_1x   
I6  (p5 TagWAck_n1 Y0_n1 Y2_n1) nand_3x   
I7  (Y0_n1 y0)   inv_1x    
I8  (p6 TagWAck_n1 TagWrRegAck Y2_n1)   nand3_1x  
I9  (p7 TagWAck L2DataOutReq_n1 Y0_n1)   nand3_1x  
I10 (L2DataOutReq_n1 L2DataOutReq) inv_1x
I11 (p8 TagWrRegAck Y0_n1) nand_1x
I12 (p9 WriteToL1MissReq_n1 TagWAck y0) nand3_1x
I13 (WriteToL1MissReq_n1 WriteToL1MissReq) inv_1x
I14 (p10 TagWrRegAck y0) nand_1x
I15 (p11 TagWAck_n1 L2DataOutReq_n1 TagWrRegAck_n1) nand_1x
I16 (TagWrRegAck_n1 TagWrRegAck) inv_1x
I17 (p12 L2DataOutReq_n1 y0) nand_1x
I18 (p13 WriteToL1MissReq_n1 L2DataOutReq_n1 y2)   nand3_1x  
I19 (y0 p10 p11 p12)   nand3_1x  
I20 (y1 p1 p3 p6 p7 p8) nand5_1x
I21 (y2 p7 p9 p11 p13) nand4_1x
I22 (TagWE p1 p2 p6)   nand3_1x 	
I23 (WriteToL1MissTagAck p9 p10)  nand_1x 	
I24 (TagWDataSel p2 p3 p5) nand3_1x
I25 (L2DataOutTagAck p7 p8) nand2_1x
I26 (TagWrRegReq p2 p3 p4 p6) nand4_1x

ends L1_write_ctrl_rev3